US07148229B2
N-{4-[3-Butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-4-chloro-2,5-dimethyl-benzenesulfonamide
Prepared from 8-(4-amino-benzyl)-3-butyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione and 4-chloro-2,5-dimethyl-benzenesulfonyl chloride. Purity (ELSD, based on MW=624.1)=93%.

reactant | 8-(4-amino-benzyl)-3-butyl-1-(2-fluoro-benzyl)-3,7-dihydro-purine-2,6-dione | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CCCC)C=C1 | C23H24FN5O2
reactant | 4-chloro-2,5-dimethyl-benzenesulfonyl chloride | ClC1=CC(=C(C=C1C)S(=O)(=O)Cl)C | C8H8Cl2O2S
product | N-{4-[3-Butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-4-chloro-2,5-dimethyl-benzenesulfonamide | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NS(=O)(=O)C1=C(C=C(C(=C1)C)Cl)C)=O)CC1=C(C=CC=C1)F)=O | C31H31ClFN5O4S
